US07160876B2
3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole
Under N2, a mixture of 5-bromo-3-methyl-1H-indole (Aldrich, 1.05 g, 5 mmol), bis(pinacolato)diboron (Aldrich, 1.40 g, 5.5 mmol), PdCl2(dppf).CH2Cl2 (Aldrich, 122 mg, 0.15 mmol) and KOAc (Aldrich, 1.47 g, 15 mmol) in DMSO (20 mL) was stirred at 90° C. for 1 h. The reaction was monitored with TLC. After the reaction was complete, it was then diluted with EtOAc (100 mL) and washed with brine (3×10 mL). The organic solution was then concentrated and the title compound was purified by flash chromatography (SiO2, Hexane:EtOAc, 80:20, Rf. 0.70) as solid (510 mg, yield, 40%). 1H NMR (300 MHz, CDCl3) δ 1.38 (s, 12H), 2.35 (s, 3H), 6.98 (s, 1H), 7.34 (dd, J=8.1, 0.7, Hz, 1H), 7.65 (dd, J=8.1, 1.0 Hz, 1H), 8.12 (s, 1H) ppm. MS (DCl/NH3): m/z 258 (M+H)+.

reactant | 5-bromo-3-methyl-1H-indole | 5 mmol, 1.05 g | BrC=1C=C2C(=CNC2=CC1)C | C9H8BrN
reactant | bis(pinacolato)diboron | 5.5 mmol, 1.40 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | CH2Cl2 | 0.15 mmol, 122 mg | C(Cl)Cl | CH2Cl2
reactant | KOAc | 15 mmol, 1.47 g | CC(=O)[O-].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | CC1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
